US04680301
A solution of 32.4 g of 2-tert-butyl-5-chloro-6-nitrobenzothiazole described in Example 5, in 300 ml of dimethyl sulfoxide, is stirred and heated at 140° for 6 hours with 12.8 g of 4-methylpiperidine and 35.8 g of anhydrous potassium carbonate, cooled and poured into water. The solid obtained is dissolved in chloroform and filtered through a silica gel column. The filtrate is evaporated to give 2-tert-butyl-5-[4-methylpiperidin-1-yl]-6-nitrobenzothiazole melting at 116°-120°.

reactant | 2-tert-butyl-5-chloro-6-nitrobenzothiazole | 32.4 g | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)[N+](=O)[O-])Cl | C11H11ClN2O2S
reactant | 4-methylpiperidine | 12.8 g | CC1CCNCC1 | C6H13N
reactant | potassium carbonate | 35.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 300 ml | CS(=O)C | C2H6OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-tert-butyl-5-[4-methylpiperidin-1-yl]-6-nitrobenzothiazole | C(C)(C)(C)C=1SC2=C(N1)C=C(C(=C2)[N+](=O)[O-])N2CCC(CC2)C | C17H23N3O2S
